US04111923
(g) L-Tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester, hydrochloride
A solution of 1.58 g. of Nα -benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester in 100 ml. of methanol with 1.6 ml. of 1.3 N hydrogen chloride in methanol is stirred with 150 mg. of palladium on carbon under one inch water pressure of hydrogen for two and a half hours. Thin layer chromatography of samples of the solution shows the disappearance of the starting material in about two hours. The catalyst is removed by filtration and the filtrate evaporated at 40° and reduced pressure. The residue is used without further purification.

reactant | Nα -benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | C41H50N6O10
reactant | hydrogen chloride | 1.3 N | Cl | ClH
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | L-Tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucine, methyl ester, hydrochloride | Cl.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | InChI=1S/C33H44N6O8.ClH/c1-18(2)13-27(33(46)47-4)38-29(42)19(3)36-31(44)26(14-20-9-11-22(41)12-10-20)37-32(45)28(17-40)39-30(43)24(34)15-21-16-35-25-8-6-5-7-23(21)25;/h5-12,16,18-19,24,26-28,35,40-41H,13-15,17,34H2,1-4H3,(H,36,44)(H,37,45)(H,38,42)(H,39,43);1H/t19-,24+,26+,27+,28+;/m1./s1
